US08609644B2
N-(tert-Butoxycarbonyl)ethylendiamine (0.20 mL) was added to a solution of 3β-(1-imidazolylcarbonyloxy)androstane-6,17-dione (200 mg) in CH2Cl2 (10 mL) and 2-propanol (1 mL). After heating under reflux for 9 hr, the mixture was cooled to room temperature and water was added. The organic layer was separated, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2; CH2Cl2:EtOAc 1:1) to give 3β-[N-(2-tert-butoxycarbonylaminoethyl)-carbamoyloxy]androstane-6,17-dione (184 mg, 76%). 1H-NMR (300 MHz, CDCl3, ppm from TMS): δ 5.02 (1H, bb), 4.84 (1H, bb), 4.56 (1H, m), 3.27 (4H, m), 2.50-1.20 (20H, m), 1.45 (9H, s), 0.87 (3H, s), 0.80 (3H, s).

reactant | N-(tert-Butoxycarbonyl)ethylendiamine | 0.20 mL | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | 3β-(1-imidazolylcarbonyloxy)androstane-6,17-dione | 200 mg | N1(C=NC=C1)C(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C23H30N2O4
reactant | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
product | 3β-[N-(2-tert-butoxycarbonylaminoethyl)-carbamoyloxy]androstane-6,17-dione | 184 mg, 76% | C(C)(C)(C)OC(=O)NCCNC(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C27H42N2O6
